US06683087B2
a) 3-Ethynyl-2-cyclohexen-1-one (GMC6573)
To a solution of 0.5N ethynylmagnesium bromide in tetrahydrofuran (100 mL) was added under N2 and stirring 3-ethoxy-2-cyclohexen-1-one (3.75 9, 26.8 mmol) in tetrahydrofuran (12.5 mL). The mixture was stirred at RT for 20 h when it was acidified with 1N HCl (200 mL). After stirring for 15 min the acidic phase was extracted with dichloromethane (5×50 mL). The combined organic extracts were washed with water (2×50 mL) and dried (MgSO4). Evaporation of the solvent gave an oil that was purified by column chromatography (silica, ethyl acetate/hexane 1:9) to yield a yellow oil, 2.71 g, 22.6 mmol, 84%). Analysis were in agreement with literature data.

reactant | ethynylmagnesium bromide | 0.5N | C(#C)[Mg]Br
reactant | 3-ethoxy-2-cyclohexen-1-one | 26.8 mmol | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.5 mL | O1CCCC1 | C4H8O
product | 3-Ethynyl-2-cyclohexen-1-one | C(#C)C1=CC(CCC1)=O | C8H8O
